US07173060B2
To a solution of 200 mg (0.60 mmol) 5-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyleneaminooxymethyl)-thiophene-2-carboxylic acid methyl ester in 2.4 ml THF were added 1.2 ml 1M aqueous LiOH solution and the reaction mixture was heated to 70° C. for 5 h. Water was added, the mixture was acidified and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over Na2SO4 and the solvent was evaporated to give 190 mg (0.59 mmol) 5-(2,3-Dihydro-benzo[1,4]dioxin-6-ylmethyleneaminooxymethyl)-thiophene-2-carbox-ylic acid; exact MW [M+H] calc'd: 320.06; MW found [M+H]: 320.2.

reactant | 5-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyleneaminooxymethyl)-thiophene-2-carboxylic acid methyl ester | 0.60 mmol, 200 mg | COC(=O)C=1SC(=CC1)CON=CC1=CC2=C(OCCO2)C=C1 | C16H15NO5S
reactant | LiOH | 1M, 1.2 ml | [Li+].[OH-]
reactant | Water | O | H2O
solvent | THF | 2.4 ml | C1CCOC1 | C4H8O
product | 5-(2,3-Dihydro-benzo[1,4]dioxin-6-ylmethyleneaminooxymethyl)-thiophene-2-carbox-ylic acid | 0.59 mmol, 190 mg | O1CCOC2=C1C=CC(=C2)C=NOCC2=CC=C(S2)C(=O)O | C15H13NO5S
